US05177211
2-(phenylthio)ethyl-2,6-dimethyl-5-ethoxycarbonyl-4-methyl-1,4-dihydropyridin-3-carboxylate
2-(phenylthio)ethyl-acetylacetate 28.5 ml (31.24 g, 0.37 moles) of diketene are added drop by drop and with stirring to a mixture made up of 50 ml (57.30 g; 0.37 moles) of 2-hydroxyethylphenylsulfide and 0.4 ml triethylamine previously heated to 80° C. The rate of addition is adjusted so that the temperature is kept between 85°-90° C. Once the adding has ended the reaction mixture is kept at 90° C. for 3 hours with stirring. The desired product is isolated by reduced pressure distillation of the previous mixture, resulting in a colorless liquid; melting point: 143°-5° C./0.5 Torr. The yield of the reaction is 86%.

reactant | 2-(phenylthio)ethyl-acetylacetate | 0.37 moles, 28.5 ml, 31.24 g | C1(=CC=CC=C1)SCCOC(CC(C)=O)=O | C12H14O3S
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | 2-hydroxyethylphenylsulfide | 0.37 moles, 50 ml, 57.30 g | OCCSC1=CC=CC=C1 | C8H10OS
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
product | 2-(phenylthio)ethyl-2,6-dimethyl-5-ethoxycarbonyl-4-methyl-1,4-dihydropyridin-3-carboxylate | C1(=CC=CC=C1)SCCOC(=O)C1=C(NC(=C(C1C)C(=O)OCC)C)C | C20H25NO4S
